US03969409
A mixture of 12.75 parts of 2-chloroaniline and 14 parts of dimedone is dissolved in 40 volume parts of ethanol under warming, followed by the addition of 3 drops of glacial acetic acid. The solution is refluxed in a water bath for 2 hours, after which time the ethanol is distilled off and the resulting residue is allowed to cool, whereupon yellow crystals separate. These crystals are collected by filtration, washed with ispropyl ether and recrystallized from acetone. The procedure yields 3-(2-chloroanilino-5,5-dimethyl-2-cyclohexen-1-one as colorless prisms melting at 150°-152°C. Elementary analysis: C14H16NOCL Calcd. C, 67.32; H, 6.45; N, 5.60 Found C, 67.13; H, 6.31; N, 5.82 (b) A mixture of 40 parts of dimedone and 36.4 parts of 2-chloroaniline is heated at 170°-175°C for 45 minutes followed by cooling. The resulting reaction product is recrystallized to obtain yellow cubes. The crystals are collected by filtration, washed well with isopropyl ether and recrystallized from acetone. The procedure yields colorless prisms of 3-(2-chloroanilino)-5,5-dimethyl-2-cyclohexen-1-one. Melting point: 150°-152°C. By procedures similar to those described in Example 1-(a) and (b), the following compounds are produced.

reactant | 2-chloroaniline | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | dimedone | CC1(CC(=O)CC(=O)C1)C | C8H12O2
solvent | ethanol | C(C)O | C2H6O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 2-chloroanilino-5,5-dimethyl-2-cyclohexen-1-one | ClC1=C(NC=2C(CC(CC2)(C)C)=O)C=CC=C1 | C14H16ClNO
